US08314107B2
To a stirred mixture of 2-bromothiazole-5-carboxylic acid (500 mg, 2.4 mmol) in anhydrous N,N-dimethylformamide (5 mL) was added triethylamine (1.1 mL, 7.92 mmol), HATU (1 g, 2.64 mmol), and 4-((4-aminopiperidin-1-yl)methyl)benzonitrile (762 mg, 2.64 mmol). The mixture was stirred at room temperature overnight and then poured into water. The resulting solids were collected by filtration and purified by column chromatography to yield 972 mg (100%) of 2-bromo-N-(1-(4-cyanobenzyl)piperidin-4-yl)thiazole-5-carboxamide as a yellow solid. LCMS (m/z): 406 (MH+).

reactant | 2-bromothiazole-5-carboxylic acid | 2.4 mmol, 500 mg | BrC=1SC(=CN1)C(=O)O | C4H2BrNO2S
reactant | triethylamine | 7.92 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 2.64 mmol, 1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-((4-aminopiperidin-1-yl)methyl)benzonitrile | 2.64 mmol, 762 mg | NC1CCN(CC1)CC1=CC=C(C#N)C=C1 | C13H17N3
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-bromo-N-(1-(4-cyanobenzyl)piperidin-4-yl)thiazole-5-carboxamide | 972 mg, 100% | BrC=1SC(=CN1)C(=O)NC1CCN(CC1)CC1=CC=C(C=C1)C#N | C17H17BrN4OS
